US04028319
A solution of 21.2 parts N-t-butoxycarbonyl-L-phenylalanine 2,4,5-trichlorophenyl ester and 12.7 parts L-methionine benzyl ester in 200 parts methylene chloride is stirred overnight at room temperature. Completion of the reaction is determined by thin layer chromatography. The solvent is then stripped under reduced pressure and the crude residue subjected to low pressure column chromatography on silica gel. The resulting product, N-t-butoxycarbonyl-L-phenylalanyl-L-methionine benzyl ester, is dissolved in 50 parts dioxane and stirred with a 10 fold excess of 2 N HCl in dioxane for 10 minutes. The solvent is removed by evaporation under reduced pressure. The solid residue, after trituration with ethyl ether, affords pure L-phenylalanyl-L-methionine benzyl ester hydrochloride. This compound is represented by the following formula

reactant | N-t-butoxycarbonyl-L-phenylalanine 2,4,5-trichlorophenyl ester | ClC1=C(C=C(C(=C1)Cl)Cl)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C20H20Cl3NO4
reactant | L-methionine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N)CCSC)=O | C12H17NO2S
reactant | N-t-butoxycarbonyl-L-phenylalanyl-L-methionine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O)CCSC)=O | C26H34N2O5S
reactant | HCl | 2 N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | L-phenylalanyl-L-methionine benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](N)CC1=CC=CC=C1)=O)CCSC)=O | InChI=1S/C21H26N2O3S.ClH/c1-27-13-12-19(21(25)26-15-17-10-6-3-7-11-17)23-20(24)18(22)14-16-8-4-2-5-9-16;/h2-11,18-19H,12-15,22H2,1H3,(H,23,24);1H/t18-,19-;/m0./s1
